US09334286B2
Preparation 116: 3-(3-Ethoxy-4-nitrophenyl)-4-methyl-4H-1,2,4-triazole
5-(3-Ethoxy-4-nitrophenyl)-4-methyl-4H-1,2,4-triazole-3-thiol (Preparation 117, 1.16 g 4.14 mmole) was stirred with dichloromethane (11.8 mL) and the suspension cooled in ice. A solution of 35% hydrogen peroxide (0.91 mL, 12.2 mmole) in acetic acid (6 mL) was added dropwise and the reaction was stirred at room temperature for 70 minutes. Dichloromethane (50 mL) was added followed by 2M aqueous sodium hydroxide (48 mL) to pH=7. The layers were separated, the aqueous extracted with more dichloromethane, the organic layers combined, dried over sodium sulphate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with 5-10% EtOH in DCM to afford the title compound (607 mg, 60%).

reactant | 5-(3-Ethoxy-4-nitrophenyl)-4-methyl-4H-1,2,4-triazole-3-thiol | 4.14 mmole, 1.16 g | C(C)OC=1C=C(C=CC1[N+](=O)[O-])C=1N(C(=NN1)S)C | C11H12N4O3S
reactant | dichloromethane | 11.8 mL | ClCCl | CH2Cl2
reactant | hydrogen peroxide | 12.2 mmole, 0.91 mL | OO | H2O2
reactant | Dichloromethane | 50 mL | ClCCl | CH2Cl2
reactant | sodium hydroxide | 2M, 48 mL | [OH-].[Na+]
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 3-(3-Ethoxy-4-nitrophenyl)-4-methyl-4H-1,2,4-triazole | 607 mg, 60% | C(C)OC=1C=C(C=CC1[N+](=O)[O-])C1=NN=CN1C | C11H12N4O3
